US04372953
Aluminum chloride (4 g) is suspended in carbon disulfide (20 ml) and furan (1.5 g) is added to the suspension. 4-(1-Methyl-1,2,3,4-tetrazol-5-yl)thiobutyryl chloride (4.4 g) added dropwise to the mixture with stirring under ice-cooling, and the mixture is stirred at the same temperature for 1 hour. The reaction mixture is poured into hydrochloric acid-ice and extracted with chloroform. The chloroform solution is washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride and dried over magnesium sulfate. After chloroform is distilled off, the residue is purified by column chromatography (Wakogel C-200, eluting agent, chloroform), the eluate is recrystallized from hexane-ether to give 1-methyl-5-[3-(2-furoyl)propyl]thio-1,2,3,4-tetrazole (0.8 g) as colorless needles, m.p. 41°-42° C.

reactant | Aluminum chloride | 4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | furan | 1.5 g | O1C=CC=C1 | C4H4O
reactant | 4-(1-Methyl-1,2,3,4-tetrazol-5-yl)thiobutyryl chloride | 4.4 g | CN1N=NN=C1CCCC(=S)Cl | C6H9ClN4S
reactant | carbon disulfide | 20 ml | C(=S)=S | CS2
product | 1-methyl-5-[3-(2-furoyl)propyl]thio-1,2,3,4-tetrazole | 0.8 g | CN1N=NN=C1SCCCC(=O)C=1OC=CC1 | C10H12N4O2S
